* Schematics Netlist *



V_V1         $N_0001 0 100V
H_H4         $N_0004 0 VH_H4 5
VH_H4        $N_0002 $N_0003 0V
R_R2         $N_0003 $N_0001  59  
R_R3         $N_0004 $N_0003  54  
G_G3         0 $N_0003 $N_0005 $N_0001 0.02
R_R4         $N_0001 $N_0005  49  
E_E1         $N_0005 0 $N_0005 $N_0002 0.2
R_R1         $N_0002 $N_0005  50  
