* Schematics Netlist *



L_L1         $N_0001 $N_0002  1  
C_MohammadAbuShams         $N_0003 0  0.0833  
R_R1         $N_0002 $N_0003  3  
I_I1         $N_0003 0 DC -1.67  
V_V5         $N_0001 0  AC 0
+SIN 0 12.5 0.955 0 0 0
